US06331640B1
A solution of N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(9H-fluoren-9-ylmethoxy)carbonyl]amino-L-alanine, methyl ester (1.17 g, 1.9 mmol) in dichloromethane/methanol (2:1) was added to piperidine (1.1 mL, 11.2 mmol). The reaction mixture was stirred for 4 h at room temperature and then more piperidine (1.1 mL, 11.2 mmol) was added. The solution was stirred at room temperature overnight, then it was concentrated and the residue was chromatographed (0-40% methanol/dichloromethane) to give 3-amino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-L-alanine, methyl ester (760 mg, 100%) as a pale yellow solid.

reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(9H-fluoren-9-ylmethoxy)carbonyl]amino-L-alanine, methyl ester | 1.9 mmol, 1.17 g | ClC1=C(C(=O)N[C@@H](CNC(=O)OCC2C3=CC=CC=C3C=3C=CC=CC23)C(=O)OC)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C34H30ClN3O7
reactant | piperidine | 11.2 mmol, 1.1 mL | N1CCCCC1 | C5H11N
reactant | piperidine | 11.2 mmol, 1.1 mL | N1CCCCC1 | C5H11N
solvent | dichloromethane methanol | ClCCl.CO
product | 3-amino-N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-L-alanine, methyl ester | 760 mg, 100% | NC[C@H](NC(C1=C(C=C(C=C1)C(=O)NCC1=CC(=CC=C1)O)Cl)=O)C(=O)OC | C19H20ClN3O5
